US04806535
A solution of methyl-2-(4-fluorobenzoyl)benzoate (5.31 g, 21 mmol) in 23 mL of DMF is added dropwise to a solution of NaH (0.91 g, 23 mmol) and imidazole (1.43 g, 21 mmol) in 35 mL of DMF. The resulting mixture is heated at 120° C. for 20 hours under N2. After cooling, the product is poured onto ice and extracted with CHCl3 (4×30 mL). The combined extracts are dried (Na2SO4) and evaporated to give crude product. Chromatographic purification of the crude residue on silica gel (using EtOAc as the eluent) gives pure methyl-2-[4(1H-imidazol-1-yl)benzoyl]benzoate. M.P. 134.5°-136.5° C.

reactant | methyl-2-(4-fluorobenzoyl)benzoate | 21 mmol, 5.31 g | COC(C1=C(C=CC=C1)C(C1=CC=C(C=C1)F)=O)=O | C15H11FO3
reactant | NaH | 23 mmol, 0.91 g | [H-].[Na+]
reactant | imidazole | 21 mmol, 1.43 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | methyl-2-[4(1H-imidazol-1-yl)benzoyl]benzoate | COC(C1=C(C=CC=C1)C(C1=CC=C(C=C1)N1C=NC=C1)=O)=O | C18H14N2O3
